### PR TITLE
Add Hypothesis H

### PR DESCRIPTION
**Pull request by Reklle**
Good day! I'm done with formalizing the Hypothesis H and its special cases.
For brevity, I introduced two non-standard conditions on polynomials (`Bunyakovsky condition` and `Schinzel condition`). But these divisions seem logical. I should add related closed conjectures, but I'm not sure how necessary it is.

I should note that there is a hypothesis with a similar name, from the great and terrible [nLab](https://ncatlab.org/nlab/show/Hypothesis+H). It might be worth renaming the file to `Schinzel.lean`.

### CODE REVIEW

**Comment by Paul-Lez** [comment]
Hey @Reklle, thanks for the PR! I forced push to your branch to clean up the commit history - I think you accidentally added  files from some of your other PRs in your initial commit :)

File: FormalConjectures/Wikipedia/HypothesisH.lean [hunk 1]
```diff
@@ -0,0 +1,126 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Hypothesis H
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Schinzel%27s_hypothesis_H)
+-/
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/HypothesisH.lean]: I'd add this so you can access notations like `ℤ[X]` and so on 
```suggestion

open Polynomial

```

File: FormalConjectures/Wikipedia/HypothesisH.lean [hunk 2]
```diff
@@ -0,0 +1,126 @@
...
+def BunyakovskyCondition (f : Polynomial ℤ) : Prop :=
+  1 ≤ f.degree ∧ Irreducible f ∧ 0 < f.leadingCoeff
+
+/--
+**Schinzel condition**
+The collective condition on polynomials in Schinzel and Bunyakovsky conjectures.
+Holds if for every prime $p$ there exists a natural $n$ such that $p$ not divides $f_i(n)$ for all $f_i$.
+-/
+def SchinzelCondition (fs : Finset (Polynomial ℤ)) : Prop :=
+  ∀ p : ℕ, Prime p → ∃ n : ℕ, ∀ f ∈ fs, ¬(p ∣ (f.eval (n : ℤ)).natAbs)
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/HypothesisH.lean]: I'd be tempted to use `Nat.Prime` rather than `Prime` here, but admittedly this is more a matter of personal preference.
```suggestion
  ∀ p : ℕ, p.Prime → ∃ n : ℕ, ∀ f ∈ fs, ¬p ∣ (f.eval (n : ℤ)).natAbs
```

File: FormalConjectures/Wikipedia/HypothesisH.lean [hunk 3]
```diff
@@ -0,0 +1,126 @@
...
+  Infinite {p : ℕ | Prime p ∧ Prime (p + 2*k)} := by
+  sorry
+
+/--
+**Sophie Germain prime conjecture**
+There are infinitely many primes $p$ such that $2p + 1$ is prime.
+-/
+@[category research open, AMS 11]
+theorem safe_primes :
+    Infinite {p : ℕ | Prime p ∧ Prime (p + 4)} := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/HypothesisH.lean]:
```suggestion
    Infinite {p : ℕ | Prime p ∧ Prime (2*p + 1)} := by
```

File: FormalConjectures/Wikipedia/HypothesisH.lean [hunk 4]
```diff
@@ -0,0 +1,126 @@
...
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Schinzel%27s_hypothesis_H)
+-/
+
+/--
+**Bunyakovsky condition**
+The condition for each polynomial in Schinzel and Bunyakovsky conjectures.
+Holds for nonconstant irreducible polynomial with positive leading coefficient.
+-/
+def BunyakovskyCondition (f : Polynomial ℤ) : Prop :=
+  1 ≤ f.degree ∧ Irreducible f ∧ 0 < f.leadingCoeff
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/HypothesisH.lean]: This condition also appears in Bateman-Horn #161 (for the same reason it seems). Therefore I think it makes sense to put this in the ForMathlib folder. If you want to do this in this PR, then that would be great, but otherwise I can make a follow up PR adding this for you.

File: FormalConjectures/Wikipedia/HypothesisH.lean [hunk 5]
```diff
@@ -0,0 +1,126 @@
...
+If a finite set of polynomials $f_i$ satisfies both Schinzel and Bunyakovsky conditions,
+there exist infinitely many natural numbers $m$ such that $f_i(m)$ are primes for all $i$.
+-/
+@[category research open, AMS 11]
+theorem schinzel_conjecture (fs : Finset (Polynomial ℤ)) :
+  (∀ f ∈ fs, BunyakovskyCondition f) ∧ SchinzelCondition fs →
+  Infinite {n : ℕ | ∀ f ∈ fs, (f.eval (n : ℤ)).natAbs.Prime} := by
+  sorry
+
+/-! ## Special cases -/
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/HypothesisH.lean]: I think the conjectures from here onwards should go in different file(s), and in this file they should only be stated as an implication of Schnitzel conjecture. E.g. `bunyakovsky_conjecture_of_schnizel`.

File: FormalConjectures/Wikipedia/HypothesisH.lean [hunk 6]
```diff
@@ -0,0 +1,126 @@
...
+  (∀ f ∈ fs, f.degree = 1 ∧ BunyakovskyCondition f) ∧ SchinzelCondition fs →
+  Infinite {n : ℕ | ∀ f ∈ fs, (f.eval (n : ℤ)).natAbs.Prime} := by
+  sorry
+
+/--
+There exist infinitely many composite Mersenne numbers.
+-/
+@[category research open, AMS 11]
+theorem mersenne_composite_infinite :
+  Infinite {n : ℕ | ¬IsGivesMersennePrime n} := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/HypothesisH.lean]: Since `GivesMersennePrime` was defined in a file that ins't imported here, this is going to throw a compilation error. I'd suggest adding `GivesMersennePrime` to `ForMathlib` so both files have access to it.
```suggestion
  Infinite {n : ℕ | ¬GivesMersennePrime n} := by
```

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR! A few additional comments:

File: FormalConjectures/Wikipedia/HypothesisH.lean (hunk 5 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/HypothesisH.lean:52]: They use common conditions for most of the conjectures, so dividing into files can make the structure unclear. On the other hand, it might be worth separating them.

File: FormalConjectures/Wikipedia/BatemanHornConjecture.lean [hunk 7]
```diff
@@ -55,30 +46,22 @@ noncomputable def CountSimultaneousPrimes (polys : Finset ℤ[X]) (x : ℝ) : 
...
-infinite product converges to a positive value. -/
+/--
+**The Bateman-Horn Conjecture**
+Given a finite collection of distinct irreducible polynomials $f_1, f_2, \dots, f_k \in \mathbb{Z}[x]$
+with positive leading coefficients that satisfy the compatibility condition, the number
+of positive integers n ≤ x for which all polynomials $f_i$ are simultaneously prime is asymptotic to:
+$$C(f_1, f_2, \dots, f_k) x / (log x)^k$$
+where $C$ is the Bateman-Horn constant given by the convergent infinite product:
+$$C = \prod_{p\in\mathbb{P}} (1 - 1/p)^(-k) · (1 - \omega_p/p)$$
+Here $\omega_p/p$ is the number of residue classes modulo p for which at least one polynomial vanishes.
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/BatemanHornConjecture.lean]:
```suggestion
Here $\omega_p/p$ is the number of residue classes modulo $p$ for which at least one polynomial vanishes.
```

File: FormalConjectures/ForMathlib/Algebra/Polynomial/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,35 @@
...
+def BunyakovskyCondition (f : ℤ[X]) : Prop :=
+  1 ≤ f.degree ∧ Irreducible f ∧ 0 < f.leadingCoeff
+
+/--
+**Schinzel condition**
+The collective condition on polynomials in Schinzel and Bunyakovsky conjectures.
+Holds if for every prime $p$ there exists a natural $n$ such that $p$ not divides $f_i(n)$ for all $f_i$.
+-/
+def SchinzelCondition (fs : Finset ℤ[X]) : Prop :=
+  ∀ p : ℕ, p.Prime → ∃ n : ℕ, ∀ f ∈ fs, ¬p ∣ (f.eval (n : ℤ)).natAbs
```
Comment (Paul-Lez) [inline FormalConjectures/ForMathlib/Algebra/Polynomial/Basic.lean]:
```suggestion
open Polynomial

/-! 

This file introduces some common assumptions made on polynomials in certain conjectures. Note that these condition (and the terminology) are non-standard.

-/

/--
**Bunyakovsky condition**
A condition on polynomials in the Schinzel and Bunyakovsky conjectures.
Holds for nonconstant irreducible polynomial with positive leading coefficient.
-/
def BunyakovskyCondition (f : ℤ[X]) : Prop :=
  1 ≤ f.degree ∧ Irreducible f ∧ 0 < f.leadingCoeff

/--
**Schinzel condition**
A condition on sets of polynomials in the Schinzel and Bunyakovsky conjectures.
Holds if for every prime $p$ there exists a natural $n$ such that $p$ not divides $f_i(n)$ for all $f_i$.
-/
def SchinzelCondition (fs : Finset ℤ[X]) : Prop :=
  ∀ p : ℕ, p.Prime → ∃ n : ℕ, ∀ f ∈ fs, ¬p ∣ (f.eval (n : ℤ)).natAbs

```

File: FormalConjectures/Wikipedia/BatemanHornConjecture.lean [hunk 9]
```diff
@@ -55,30 +46,22 @@ noncomputable def CountSimultaneousPrimes (polys : Finset ℤ[X]) (x : ℝ) : 
...
+/--
+**The Bateman-Horn Conjecture**
+Given a finite collection of distinct irreducible polynomials $f_1, f_2, \dots, f_k \in \mathbb{Z}[x]$
+with positive leading coefficients that satisfy the compatibility condition, the number
+of positive integers n ≤ x for which all polynomials $f_i$ are simultaneously prime is asymptotic to:
+$$C(f_1, f_2, \dots, f_k) x / (log x)^k$$
+where $C$ is the Bateman-Horn constant given by the convergent infinite product:
+$$C = \prod_{p\in\mathbb{P}} (1 - 1/p)^(-k) · (1 - \omega_p/p)$$
+Here $\omega_p/p$ is the number of residue classes modulo $p$ for which at least one polynomial vanishes.
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/BatemanHornConjecture.lean:70]:
```suggestion

The compatibility condition ensures that for each prime $p$, there exists some integer $n$ 
such that $p$ does not divide the product $f_(n) f_2(n) \dotsb f_(n)$, which guarantees the 
infinite product converges to a positive value. -/
```

File: FormalConjectures/Wikipedia/Bunyakovsky.lean [hunk 10]
```diff
@@ -0,0 +1,35 @@
...
+
+/--
+**Bunyakovsky conjecture**
+If a polynomial $f$ over integers satisfies both Schinzel and Bunyakovsky conditions,
+there exist infinitely many natural numbers $m$ such that $f(m)$ is prime.
+-/
+@[category research open, AMS 11]
+theorem bunyakovsky_conjecture (f : ℤ[X]) :
+  BunyakovskyCondition f ∧ SchinzelCondition {f} →
+  Infinite {n : ℕ | (f.eval (n : ℤ)).natAbs.Prime} := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Bunyakovsky.lean]:
```suggestion
    BunyakovskyCondition f ∧ SchinzelCondition {f} →
    Infinite {n : ℕ | (f.eval (n : ℤ)).natAbs.Prime} := by
```

File: FormalConjectures/Wikipedia/Dickson.lean [hunk 11]
```diff
@@ -0,0 +1,83 @@
...
+
+/--
+**Dickson's conjecture**
+If a finite set of in linear integer forms $f_i(n) = a_i n+b_i$ satisfies Schinzel condition,
+there exist infinitely many natural numbers $m$ such that $f_i(m)$ are primes for all $i$.
+-/
+@[category research open, AMS 11]
+theorem dickson_conjecture (fs : Finset ℤ[X]) :
+  (∀ f ∈ fs, f.degree = 1 ∧ BunyakovskyCondition f) ∧ SchinzelCondition fs →
+  Infinite {n : ℕ | ∀ f ∈ fs, (f.eval (n : ℤ)).natAbs.Prime} := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Dickson.lean]:
```suggestion
theorem dickson_conjecture (fs : Finset ℤ[X]) (hfs : ∀ f ∈ fs, f.degree = 1 ∧ BunyakovskyCondition f) 
    (hfs' : SchinzelCondition fs) : Infinite {n : ℕ | ∀ f ∈ fs, (f.eval (n : ℤ)).natAbs.Prime} := by
```

File: FormalConjectures/Wikipedia/Dickson.lean [hunk 12]
```diff
@@ -0,0 +1,83 @@
...
+
+/-! ## Special cases -/
+
+/--
+**Polignac's conjecture**
+For any integer $k$ there are infinitely many primes $p$ such that $p + 2k$ is prime.
+-/
+@[category research open, AMS 11]
+theorem polignac_conjecture (k : ℕ) :
+  Infinite {p : ℕ | Prime p ∧ Prime (p + 2*k)} := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Dickson.lean]:
```suggestion
    Infinite {p : ℕ | Prime p ∧ Prime (p + 2 * k)} := by
```

File: FormalConjectures/Wikipedia/Dickson.lean [hunk 13]
```diff
@@ -0,0 +1,83 @@
...
+  sorry
+
+/--
+**Sophie Germain prime conjecture**
+There are infinitely many primes $p$ such that $2p + 1$ is prime.
+-/
+@[category research open, AMS 11]
+theorem safe_primes :
+    Infinite {p : ℕ | Prime p ∧ Prime (2*p + 1)} := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Dickson.lean]:
```suggestion
    Infinite {p : ℕ | Prime p ∧ Prime (2 * p + 1)} := by
```

File: FormalConjectures/Wikipedia/Schinzel.lean [hunk 14]
```diff
@@ -0,0 +1,35 @@
...
+
+/--
+**Schinzel conjecture (H hypothesis)**
+If a finite set of polynomials $f_i$ satisfies both Schinzel and Bunyakovsky conditions,
+there exist infinitely many natural numbers $m$ such that $f_i(m)$ are primes for all $i$.
+-/
+@[category research open, AMS 11]
+theorem schinzel_conjecture (fs : Finset ℤ[X]) :
+  (∀ f ∈ fs, BunyakovskyCondition f) ∧ SchinzelCondition fs →
+  Infinite {n : ℕ | ∀ f ∈ fs, (f.eval (n : ℤ)).natAbs.Prime} := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Schinzel.lean]:
```suggestion
theorem schinzel_conjecture (fs : Finset ℤ[X]) (hfs : ∀ f ∈ fs, BunyakovskyCondition f) 
    (hfs' : SchinzelCondition fs) : Infinite {n : ℕ | ∀ f ∈ fs, (f.eval (n : ℤ)).natAbs.Prime} := by
```

**Review by Paul-Lez — COMMENTED** [review]
A few style nits here and there

**Comment by Paul-Lez** [comment]
Note that you'll need to merge master to fix the conflicts.

**Comment by Reklle** [comment]
@Paul-Lez, sorry for the large amount of style mistakes! Hopefully my coding style will be better in future PRs.

And the version conflict has been resolved.

File: FormalConjectures/ForMathlib/Algebra/Polynomial/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,42 @@
...
+def BunyakovskyCondition (f : ℤ[X]) : Prop :=
+  1 ≤ f.degree ∧ Irreducible f ∧ 0 < f.leadingCoeff
+
+/--
+**Schinzel condition**
+A condition on sets of polynomials in the Schinzel and Bunyakovsky conjectures.
+Holds if for every prime $p$ there exists a natural $n$ such that $p$ not divides $f_i(n)$ for all $f_i$.
+-/
+def SchinzelCondition (fs : Finset ℤ[X]) : Prop :=
+  ∀ p : ℕ, p.Prime → ∃ n : ℕ, ∀ f ∈ fs, ¬p ∣ (f.eval (n : ℤ)).natAbs
```
Comment (alreadydone) [inline FormalConjectures/ForMathlib/Algebra/Polynomial/Basic.lean]: Isn't it easier to just write `p ∣ f.eval n`? I suspect the `n : ℤ` type specification is also not necessary elsewhere.
It's also possible to write `(p : ℤ) ∣ f.eval (n : ℤ)` if necessary.

File: FormalConjectures/Wikipedia/BatemanHornConjecture.lean [hunk 16]
```diff
@@ -46,48 +37,43 @@ noncomputable def OmegaP (polys : Finset ℤ[X]) (p : ℕ) : ℕ :=
...
+The Bateman-Horn constant of a set of polynomials `S`. This is defined as the infinite product over all primes:
 $$\frac{1}{D} \prod_p (1 - \frac{1}{p})^{-|S|} (1 - \frac{\omega_p(S)}{p})$$
-
-where $D = \prod_{f \in S} \deg(f)$ is the product of degrees and $\omega_p(S)$ is the number of residue classes mod $p$ where at least one polynomial in $S$ vanishes. -/
+where $D = \prod_{f \in S} \deg(f)$ is the product of degrees and $\omega_p(S)$ is the number of residue classes mod $p$
+where at least one polynomial in $S$ vanishes.
+-/
 noncomputable def BatemanHornConstant (polys : Finset ℤ[X]) : ℝ :=
   (1 : ℝ) / (DegreesProduct polys) *
   ∏' p : {p : ℕ // Nat.Prime p},
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/BatemanHornConjecture.lean]: maybe
```suggestion
  ∏' p : {p : ℕ // p.Prime},
```

File: FormalConjectures/Wikipedia/Dickson.lean [hunk 17]
```diff
@@ -0,0 +1,82 @@
...
+
+/-! ## Special cases -/
+
+/--
+**Polignac's conjecture**
+For any integer $k$ there are infinitely many primes $p$ such that $p + 2k$ is prime.
+-/
+@[category research open, AMS 11]
+theorem polignac_conjecture (k : ℕ) :
+    Infinite {p : ℕ | Prime p ∧ Prime (p + 2 * k)} := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Dickson.lean]:
```suggestion
    Infinite {p : ℕ | p.Prime ∧ (p + 2 * k).Prime} := by
```
and below

File: FormalConjectures/Wikipedia/Dickson.lean [hunk 18]
```diff
@@ -0,0 +1,82 @@
...
+@[category research open, AMS 11]
+theorem sexy_primes :
+    Infinite {p : ℕ | Prime p ∧ Prime (p + 6)} := by
+  sorry
+
+/-
+## Other special cases and consequences
+- Landau's 4th problem (primes and perfect squares)
+- Twin prime conjecture
+- Artin's conjecture
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Dickson.lean]: Artin has too many conjectures ... can you write the statement?

**Comment by Paul-Lez** [comment]
> @Paul-Lez, sorry for the large amount of style mistakes! Hopefully my coding style will be better in future PRs.
> 
> And the version conflict has been resolved.

That's completely fine - no worries at all;)

**Comment by Paul-Lez** [comment]
@Reklle If you merge main, does the new copyright header linter throw a warning message in `FormalConjectures/ForMathlib/Algebra/Polynomial/Basic.lean` ?

**Comment by Reklle** [comment]
@Paul-Lez, I didn't have any notifications.

File: FormalConjectures/Wikipedia/BatemanHornConjecture.lean [hunk 19]
```diff
@@ -46,48 +37,43 @@ noncomputable def OmegaP (polys : Finset ℤ[X]) (p : ℕ) : ℕ :=
...
-such that p does not divide the product f₁(n)·f₂(n)·...·fₖ(n), which guarantees the
-infinite product converges to a positive value. -/
+/--
+**The Bateman-Horn Conjecture**
+Given a finite collection of distinct irreducible polynomials $f_1, f_2, \dots, f_k \in \mathbb{Z}[x]$
+with positive leading coefficients that satisfy the Schinzel condition, the number
+of positive integers n ≤ x for which all polynomials $f_i$ are simultaneously prime is asymptotic to:
+$$C(f_1, f_2, \dots, f_k) x / (log x)^k$$
+where $C$ is the Bateman-Horn constant given by the convergent infinite product:
+$$C = \prod_{p\in\mathbb{P}} (1 - 1/p)^(-k) · (1 - \omega_p/p)$$
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/BatemanHornConjecture.lean]:
```suggestion
$$C = \frac{1}{D}\prod_{p\in\mathbb{P}} (1 - 1/p)^(-k) · (1 - \omega_p/p)$$
```
This `1/D` is missing right? Or is it not needed in this new setup for whatever reason?

File: FormalConjectures/Wikipedia/BatemanHornConjecture.lean [hunk 20]
```diff
@@ -46,48 +37,43 @@ noncomputable def OmegaP (polys : Finset ℤ[X]) (p : ℕ) : ℕ :=
...
-
-Here D = ∏ᵢ deg(fᵢ) is the product of the degrees of the polynomials, and ωₚ is the
-number of residue classes modulo p for which at least one polynomial vanishes.
-
-The compatibility condition ensures that for each prime p, there exists some integer n
-such that p does not divide the product f₁(n)·f₂(n)·...·fₖ(n), which guarantees the
-infinite product converges to a positive value. -/
+/--
+**The Bateman-Horn Conjecture**
+Given a finite collection of distinct irreducible polynomials $f_1, f_2, \dots, f_k \in \mathbb{Z}[x]$
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/BatemanHornConjecture.lean]:
```suggestion
Given a finite collection of distinct irreducible polynomials non-constant $f_1, f_2, \dots, f_k \in \mathbb{Z}[x]$
```

File: FormalConjectures/Wikipedia/Schinzel.lean [hunk 21]
```diff
@@ -0,0 +1,34 @@
...
+/-!
+# Hypothesis H
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Schinzel%27s_hypothesis_H)
+-/
+
+/--
+**Schinzel conjecture (H hypothesis)**
+If a finite set of polynomials $f_i$ satisfies both Schinzel and Bunyakovsky conditions,
+there exist infinitely many natural numbers $m$ such that $f_i(m)$ are primes for all $i$.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Schinzel.lean]:
```suggestion
there exist infinitely many natural numbers $n$ such that $f_i(n)$ are primes for all $i$.
```
nitpick to keep notation consistent with lean statement below

File: FormalConjectures/Wikipedia/Dickson.lean [hunk 22]
```diff
@@ -0,0 +1,82 @@
...
+    Infinite {p : ℕ | Prime p ∧ Prime (p + 6)} := by
+  sorry
+
+/-
+## Other consequences
+- Landau's 4th problem (primes and perfect squares)
+- Twin prime conjecture
+- Artin's primitive root conjecture
+- First Hardy–Littlewood conjecture
+-/
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Dickson.lean]: Could you provide a reference for these statements (that shows that they are indeed called this)? I would maybe put these in different files as well (if they have different references)

**Review by callesonne — COMMENTED** [review]
Very nice! I have some more comments, but would say that its almost finished now :)

File: FormalConjectures/Wikipedia/Dickson.lean (hunk 22 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Dickson.lean]: The first 4 conjectures are trivial consequences. The `Other consequences` are from [article](https://arxiv.org/pdf/0906.3850), or more precisely from the book by _Paulo Ribenboim, The book of prime number records_, but it is not in the public domain.

Comment (callesonne) [reply FormalConjectures/Wikipedia/Dickson.lean]: I can also see that they follow from Dickson, but how do you know these conjectures go by these names is what I meant?

Comment (callesonne) [reply FormalConjectures/Wikipedia/Dickson.lean]: And surely they are interesting in their own right, without being consequences of `Dickson` :)

Comment (Reklle) [reply FormalConjectures/Wikipedia/Dickson.lean]: Oops, sorry!! Got it. I was acting in a manner similar to the `Twin prime conjecture`
